US07812024B2
Step A. Preparation of (R)-2-benzyl-7-methyl-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one
To a stirred solution of (R)-2-benzyl-7-methyl-10-methoxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one (210 mg, 0.625 mmol) in dry dichloromethane (7 mL), 1M BBr3 in dichloromethane (3.1 mL, 3.1 mmol) was added at −78° C. The reaction was stirred for 2.5 h at RT under Argon. Slowly quenched with MeOH (5 mL) and conc in vacuo to give light brownish residue. MS (ESI) 323 (M+H).

reactant | (R)-2-benzyl-7-methyl-10-methoxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | 0.625 mmol, 210 mg | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C(=CC=C(C3C2)OC)C)=O)CC1 | C21H24N2O2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3.1 mmol, 3.1 mL | ClCCl | CH2Cl2
product | (R)-2-benzyl-7-methyl-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C(=CC=C(C3C2)O)C)=O)CC1 | C20H22N2O2
